US06812237B2
To a solution of methyl 5-bromomethyl-2-fluorobenzoate (12.49 g, 50.6 mmol) in methylene chloride (150 mL) at 0° C. is added BBr3 (5.26 mL, 55.62 mmol) slowly, via syringe. The solution is then warmed to room temperature over 2.5 hours, and then is cooled back down to 0° C., and allyl alcohol (103 mL, 1.52 mol) is added dropwise. The solution is then stirred overnight, after which time it is diluted with CH2Cl2 (250 mL), then washed with sat'd aq. NaHCO3 (2×300 mL), brine (150 ml), and dried over MgSO4. Evaporation of solvent yields allyl 5-bromomethyl-2-fluorobenzoate.

reactant | methyl 5-bromomethyl-2-fluorobenzoate | 50.6 mmol, 12.49 g | BrCC=1C=CC(=C(C(=O)OC)C1)F | C9H8BrFO2
reactant | BBr3 | 55.62 mmol, 5.26 mL | B(Br)(Br)Br | BBr3
reactant | allyl alcohol | 1.52 mol, 103 mL | C(C=C)O | C3H6O
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | allyl 5-bromomethyl-2-fluorobenzoate | BrCC=1C=CC(=C(C(=O)OCC=C)C1)F | C11H10BrFO2
